US07786132B2
1-(2-(4-(Benzo[b]thiophen-2-yl)-5-phenylpyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione
A 5 mL Personal Chemistry microwave tube was charged with 1-(2-(4-(benzo[b]thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione (103 mg, 0.22 mmol), phenyl boronic acid (55 mg, 0.44 mmol), a 2 M aqueous solution of sodium carbonate (0.22 mL, 0.44 mmol), dioxane (2 mL) and tetrakis(triphenylphosphine)palladium (0) (52 mg, 0.044 mmol). The vessel was sealed and heated to 140° C. for 20 min with stirring. After cooling to r.t. the mixture was diluted with ethyl acetate (10 mL) and washed with a saturated aqueous solution of sodium hydrogen carbonate (10 mL). The organic layer was separated, dried over magnesium sulfate, filtered and the solvent evaporated in vacuo. The residue was purified by flash chromatography (chloroform/methanol 99:1 to 96:4 followed by a second column: ethyl acetate/hexane/methanol 50:48:2) to afford the title compound (17 mg, 17%). 1H NMR: δ (CDCl3, 400 MHz) 1.47 (s, 6H), 3.60-3.68 (m, 2H), 3.81-3.92 (m, 2H), 6.32 (br. s., 1H), 6.92 (s, 1H), 7.26 (t, J=7 Hz, 1H), 7.32 (t, J=7 Hz, 1H), 7.36 (dd, J=3 Hz, 2H), 7.44-7.47 (m, 3H), 7.50 (d, J=8 Hz, 1H), 7.79 (d, J=8 Hz, 1H), 8.22 (s, 1H): HRMS (M+H)+ Calcd. C25H23N5O2S 458.1650. found 458.1616.

reactant | 1-(2-(4-(benzo[b]thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 0.22 mmol, 103 mg | S1C2=C(C=C1C1=NC(=NC=C1Br)NCCN1C(NC(C1(C)C)=O)=O)C=CC=C2 | C19H18BrN5O2S
reactant | phenyl boronic acid | 0.44 mmol, 55 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.44 mmol, 0.22 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.044 mmol, 52 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-(4-(Benzo[b]thiophen-2-yl)-5-phenylpyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 17 mg, 17% | S1C2=C(C=C1C1=NC(=NC=C1C1=CC=CC=C1)NCCN1C(NC(C1(C)C)=O)=O)C=CC=C2 | C25H23N5O2S
